US06211199B1
(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine
Combine (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine (1.38 g, 3.75 mmol), potassium hydroxide (3.0 g, 56.1 mmol) in ethylene glycol (15 mL). Add hydrazine hydrate (3.09 mL, 63.7 mmol). Heat to reflux. After 18 hours, cool, add water, and extract four times with dichloromethane (200 mL). Combine the organic layers, dry over MgSO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with sequentially with ethyl acetate, 25% methanol/ethyl acetate, 50% methanol/ethyl acetate, 75% methanol/ethyl acetate, and then methanol to give a residue. Dissolve the residue in dichloromethane, extract with water and then brine, dry over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-(ethoxycarbonyl)piperidin-4-yl)amine | 3.75 mmol, 1.38 g | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C20H24N4O3
reactant | potassium hydroxide | 56.1 mmol, 3.0 g | [OH-].[K+]
reactant | hydrazine hydrate | 63.7 mmol, 3.09 mL | O.NN
reactant | water | O | H2O
solvent | ethylene glycol | 15 mL | C(CO)O | C2H6O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C17H20N4O
